US07253198B2
To a solution of 3-amino-5-methylsulfanyl-benzoic acid methyl ester hydrochloride (D62) (0.13 g, 0.556 mmol, 1 equiv) in dry CH2Cl2 (2 ml) at 0° C. was added NEt3 (193 ml, 1.39 mmol, 2.5 equiv) then 4-chlorobutyryl chloride (69 ml, 0.612 mmol, 1.1 equiv), dropwise, over 2 min. The resulting solution was stirred at 0° C. for 15 min then at room temperature for 30 min. The solution was then diluted with AcOEt, washed sequentially with 2N aqueous HCl solution, saturated aqueous NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo to give 3-(4-chloro-butanoylamino)-5-methylsulfanyl-benzoic acid methyl ester (D64) (173 mg, 103%) as pale yellow crystals. [M+H]+=302.0, RT=3.20 min

reactant | 3-amino-5-methylsulfanyl-benzoic acid methyl ester hydrochloride | 0.556 mmol, 0.13 g, 1 equiv | Cl.COC(C1=CC(=CC(=C1)SC)N)=O
reactant | NEt3 | 1.39 mmol, 193 ml, 2.5 equiv | CCN(CC)CC | C6H15N
reactant | 4-chlorobutyryl chloride | 0.612 mmol, 69 ml, 1.1 equiv | ClCCCC(=O)Cl | C4H6Cl2O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3-(4-chloro-butanoylamino)-5-methylsulfanyl-benzoic acid methyl ester | 173 mg, 103% | COC(C1=CC(=CC(=C1)SC)NC(CCCCl)=O)=O | C13H16ClNO3S
